US06878718B2
3-Ethoxy-spiro[3.4]octa-2,6-dien-1-one
A solution of cyclopent-3-ene carboxylic acid (4.0 g, 36.0 mmol) and DMF (0.25 ml) in DCM (30 ml) at 0° was treated dropwise with oxalyl chloride (3.5 ml, 39.0 mmol). After 2 h the reaction mixture was concentrated in vacuo, the residual slurry diluted with ET2O (100 ml) and the resulting precipitate removed by filtration and the filtrate concentrated in vacuo. The resulting oil was diluted with ET2O (50 ml), treated with ethoxyacetylene (40% w/w solution in hexanes, 10 ml) followed dropwise with triethylamine (6 ml, 44.0 mmol) and the reaction stirred for 7d. Filtration and concentration of the filtrate in vacuo followed by chromatography (SiO2, 5:1 EtOAc:hexanes) gave the title compound as a pale yellow oil (4.3 g, 73%); m/z (ES+, 70V) 164.9 (MH+).

reactant | cyclopent-3-ene carboxylic acid | 36.0 mmol, 4.0 g | C1(CC=CC1)C(=O)O | C6H8O2
reactant | DMF | 0.25 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 39.0 mmol, 3.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | triethylamine | 44.0 mmol, 6 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-Ethoxy-spiro[3.4]octa-2,6-dien-1-one | 4.3 g, 73% | C(C)OC1=CC(C12CC=CC2)=O | C10H12O2
